US08455638B2
Step A. Ethyl 1-[4-(2-methoxyphenyl)-1,3-thiazol-2-yl]-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate
A solution of ethyl 1-(aminocarbonothioyl)-5-hydroxy-5-(trifluoromethyl)-4,5-dihydro-1H-pyrazole-4-carboxylate (470 mg, 1.65 mmol, prepared according to J. Comb. Chem. 2002, 4, 23-32) and 2-bromo-2′-methoxyacetophenone (377 mg, 1.65 mmol) in ethanol (8 mL) was heated at 80° C. After 1 h, the mixture was allowed to cool to ambient temperature, then was concentrated in vacuo. Purification by flash chromatography on silica gel (0 to 55% EtOAc in hexanes) provided the title compound as an off-white solid: LCMS m/z 398.5 [M+H]+; 1H NMR (500 MHz, CD3OD) δ 8.26 (dd, J=7.6, 1.6 Hz, 1H), 8.13 (s, 1H), 8.03 (s, 1H), 7.37 (ddd, J=8.9, 6.5, 1.8 Hz, 1H), 7.12-7.01 (m, 2H), 4.42 (q, J=7.0 Hz, 2H), 4.02 (s, 3H), 1.42 (tr=7.0 Hz, 3H).

reactant | ethyl 1-(aminocarbonothioyl)-5-hydroxy-5-(trifluoromethyl)-4,5-dihydro-1H-pyrazole-4-carboxylate | 1.65 mmol, 470 mg | NC(=S)N1N=CC(C1(C(F)(F)F)O)C(=O)OCC | C8H10F3N3O3S
reactant | 2-bromo-2′-methoxyacetophenone | 1.65 mmol, 377 mg | BrCC(=O)C1=C(C=CC=C1)OC | C9H9BrO2
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | Ethyl 1-[4-(2-methoxyphenyl)-1,3-thiazol-2-yl]-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate | COC1=C(C=CC=C1)C=1N=C(SC1)N1N=CC(=C1C(F)(F)F)C(=O)OCC | C17H14F3N3O3S
